US05670505
To a solution of (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[(4R)-4-hydroxy-1-tert-butoxycarbonyl-L-prolyl]piperazine (0.68 g) in dichloromethane (10 ml) was added 4N hydrogen chloride in dioxane solution (10 ml) at 0° C. The resulting mixture was stirred at the same temperature for 1 hour and then concentrated under reduced pressure. The residue was pulverized with ethyl ether, collected by filtration and washed with ethyl ether to give (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[(4R)-4-hydroxy-L-prolyl]piperazine hydrochloride (0.57 g).

reactant | (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[(4R)-4-hydroxy-1-tert-butoxycarbonyl-L-prolyl]piperazine | 0.68 g | C(C1=CC=CC=C1)[C@H]1N(CCN(C1)C([C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)=O)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C30H33F6N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[(4R)-4-hydroxy-L-prolyl]piperazine hydrochloride | 0.57 g | Cl.C(C1=CC=CC=C1)[C@H]1N(CCN(C1)C([C@H]1NC[C@@H](C1)O)=O)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | InChI=1S/C25H25F6N3O3.ClH/c26-24(27,28)17-9-16(10-18(11-17)25(29,30)31)22(36)34-7-6-33(23(37)21-12-20(35)13-32-21)14-19(34)8-15-4-2-1-3-5-15;/h1-5,9-11,19-21,32,35H,6-8,12-14H2;1H/t19-,20-,21+;/m1./s1
